US04178449
3-Dimethylamino-3'-methoxyacrylophenone
A mixture of 25 g. of m-methoxyacrylophenone and 25 ml. of dimethylformamide dimethyl acetal is refluxed for 12 hours. Removal of any volatile material in vacuo gives a thick oil. Bulb to bulb distillation gives the desired product.

reactant | m-methoxyacrylophenone | COC=1C=C(C=CC1)C(C=C)=O | C10H10O2
reactant | dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylamino-3'-methoxyacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)OC)C | C12H15NO2
